US08487106B2
In a reaction vessel, 2-[4-(2-hydroxy-ethyl)-phenyl]-2-methyl-propionic acid ethylester (2.2 g) prepared in the Example 4, triethylamine (1.2 g), methanesulfonylchloride (1.25 g) and dichloromethane (20 mL) were introduced, and the mixture was reacted at room temperature for 2 hours. Distilled water (50 mL) was added thereto, and the mixture was stirred to separate layers. The separated organic layer was dehydrated with Na2SO4, and then condensed by filtration to obtain 2-[4-(2-methanesulfonyloxy-ethyl)-phenyl]-2-methyl-propionic acid ethylester (3.2 g, yield 100%).

reactant | 2-[4-(2-hydroxy-ethyl)-phenyl]-2-methyl-propionic acid ethylester | 2.2 g | C(C)OC(C(C)(C)C1=CC=C(C=C1)CCO)=O | C14H20O3
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 1.25 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 2-[4-(2-methanesulfonyloxy-ethyl)-phenyl]-2-methyl-propionic acid ethylester | 3.2 g, yield 100% | C(C)OC(C(C)(C)C1=CC=C(C=C1)CCOS(=O)(=O)C)=O | C15H22O5S
